US04460597
5-(2-anilinoethoxy)-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole (Compound 1)
0.08 g of sodium metal was dissolved with heating in 2 ml of 2-anilinoethanol, and then 1 g of 5-chloro-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole was added. The resulting mixture was heated at 100° to 110° C. for 3 hours with stirring. Excess 2-anilinoethanol was distilled off under reduced pressure. The residue was then washed with chloroform and filtered. The chloroform solution was washed with water and dried over anhydrous sodium sulphate. Chloroform was distilled off and the residue was purified by silica gel chromatography (eluent, benzene:acetone at 7:1) to give 0.92 g of the desired product, Compound 1, having a refractive index nD24 1.6105 (yield 69%).

reactant | sodium | 0.08 g | [Na] | Na
reactant | 5-chloro-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole | 1 g | ClC1=C(C(=NN1C)C)C(C1=C(C=C(C=C1)Cl)Cl)=O | C12H9Cl3N2O
reactant | 2-anilinoethanol | 2 ml | N(C1=CC=CC=C1)CCO | C8H11NO
product | 5-(2-anilinoethoxy)-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole | 0.92 g | N(C1=CC=CC=C1)CCOC1=C(C(=NN1C)C)C(C1=C(C=C(C=C1)Cl)Cl)=O | C20H19Cl2N3O2
